US07888364B2
1 g of methyl 4-((2-hydroxypropylthio)methyl)benzoate was oxidized with 2 g of MCPBA in DCM at −78° C. to form crude methyl 4-((2-hydroxypropylsulfonyl)methyl)benzoate. The reaction was evaporated and purified by ISCO Combi-Flash to yield 567 mg of pure methyl 4-((2-hydroxypropylsulfonyl)methyl)benzoate which was subsequently hydrolyzed via Procedure M to give 328 mg of 4-((2-hydroxypropylsulfonyl)methyl)benzoic acid. 50 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-((2-hydroxypropylsulfonyl)methyl)benzoic acid via Procedure G. The crude product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((2-hydroxypropylsulfonyl)methyl)benzamide. MS (Q1) 445.3 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 50 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-((2-hydroxypropylsulfonyl)methyl)benzoic acid | OC(CS(=O)(=O)CC1=CC=C(C(=O)O)C=C1)C | C11H14O5S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-((2-hydroxypropylsulfonyl)methyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)CS(=O)(=O)CC(C)O)=O)C1=NC=CC=C1 | C22H21ClN2O4S
